US07528136B2
[(2S,4S)-1-Benzyl-4-(2,4-difluoro-benzylamino)-pyrrolidin-2-yl]-[4-(3,4-dimethyl-phenyl)-piperazin-1-yl]-methanone
As described for Example 1f, 1-benzyl-4-[tert-butoxycarbonyl-(2,4-difluoro-benzyl)-amino]-pyrrolidine-2-carboxylic acid (60.0 mg, 0.134 mmol) was converted, using 1-(3,4-dimethyl-phenyl)-piperazine instead of 2-piperazin-1-yl-benzonitrile, to the title compound (9.7 mg, 14%) as light yellow oil. MS m/e=519.4 [M+H]+.

reactant | 1-benzyl-4-[tert-butoxycarbonyl-(2,4-difluoro-benzyl)-amino]-pyrrolidine-2-carboxylic acid | 0.134 mmol, 60.0 mg | C(C1=CC=CC=C1)N1C(CC(C1)N(CC1=C(C=C(C=C1)F)F)C(=O)OC(C)(C)C)C(=O)O | C24H28F2N2O4
reactant | 1-(3,4-dimethyl-phenyl)-piperazine | CC=1C=C(C=CC1C)N1CCNCC1 | C12H18N2
product | [(2S,4S)-1-Benzyl-4-(2,4-difluoro-benzylamino)-pyrrolidin-2-yl]-[4-(3,4-dimethyl-phenyl)-piperazin-1-yl]-methanone | 9.7 mg, 14% | C(C1=CC=CC=C1)N1[C@@H](C[C@@H](C1)NCC1=C(C=C(C=C1)F)F)C(=O)N1CCN(CC1)C1=CC(=C(C=C1)C)C | C31H36F2N4O
